US08859183B2
In a four-necked flask with a volume of 300 mL, which was equipped with a thermometer, a stirrer, a dropping funnel, and a nitrogen introducing tube, 11.1 g (100 mmol) of 6-azabicyclo[3.2.0]heptan-7-one, 100 mL of tetrahydrofuran, and 12.1 g (120 mmol) of triethylamine were charged, and an internal temperature was cooled to 3° C. 12.4 g (110 mmol) of 2-chloroacetyl chloride was added dropwise at that temperature over 15 minutes from the dropping funnel. After completion of the dropwise addition, the mixture was stirred for 3 hours. Thereafter, 50 mL of water and 50 mL of ethyl acetate were added, and a liquid separation operation was carried out. The obtained organic layer was concentrated under reduced pressure, thereby obtaining 8.4 g (45 mmol) of 6-chloroacetyl-6-azabicyclo[3.2.0]heptan-7-one having the following properties.

reactant | 6-azabicyclo[3.2.0]heptan-7-one | 100 mmol, 11.1 g | C12CCCC2NC1=O | C6H9NO
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 120 mmol, 12.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloroacetyl chloride | 110 mmol, 12.4 g | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 6-chloroacetyl-6-azabicyclo[3.2.0]heptan-7-one | 45 mmol, 8.4 g | ClCC(=O)N1C2CCCC2C1=O | C8H10ClNO2
